US08211996B2
8-Bromooctyl benzoylbutyrate (1)
A mixture of benzoylbutyric acid (9.0 g, 46.8 mmol), 1,8-dibromooctane (31.5 g, 117.0 mmol), potassium carbonate (16.4 g, 117.0 mmol), dry DMF (70 mL), and a catalytic amount of tetra-n-butylammonium iodide (1.0 mol %) was stirred and heated at 50° C. overnight. The solvent was evaporated. The residue was washed with dilute HCl and then extracted into ether, washed with brine, and dried with MgSO4. The solvent and excess 1,8-dibromooctane were removed under reduced pressure. The crude product was chromatographed on silica using 0-20% ethyl acetate in hexane. Isolated yield=13.5 g (75%) as a colorless liquid. 1H NMR (CDCl3, 200 MHz): δ ppm 7.95 (dd, J=8.24, 1.49 Hz, 2H), 7.47 (m, 3H), 4.05 (t, J=6.64 Hz, 2H), 3.37 (t, J=6.81, 2H), 3.04 (t, J=7.13 Hz, 2H), 2.42 (t, J=7.20 Hz, 2H), 2.01 (m, 2H), 1.82-1.73 (m, 2H), 1.69-1.51 (m, 2H), 1.47-1.21 (m, 8H). 13C NMR (CDCl3, 50.28 MHz): δ 199.29, 173.25, 136.75, 133.00, 128.52, 127.94, 64.41, 37.40, 33.90, 33.34, 32.67, 28.96, 28.50, 27.97, 25.76, 19.34. HRMS (EI) m/z: 405 ((M+Na)+•). Elemental analysis: Calculated for C19H27BrO3: C, 59.53; H, 7.10; Br, 20.85; O, 12.52. Found: C, 59.77; H, 7.52.

reactant | benzoylbutyric acid | 46.8 mmol, 9.0 g | C(C1=CC=CC=C1)(=O)C(C(=O)O)CC | C11H12O3
reactant | 1,8-dibromooctane | 117.0 mmol, 31.5 g | BrCCCCCCCCBr | C8H16Br2
reactant | potassium carbonate | 117.0 mmol, 16.4 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra-n-butylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 8-Bromooctyl benzoylbutyrate | C(C1=CC=CC=C1)(=O)C(C(=O)OCCCCCCCCBr)CC | C19H27BrO3
